US07259262B2
A mixture of 0.121 g (0.50 mmol) 4-[4-(imidazol-1-ylmethyl)-oxazol-2-yl]-phenol and 0.10 g (0.30 mmol) cesium carbonate in 10 ml butanone was stirred at 60° C. for 30 min, then 0.153 g (0.50 mmol) 4-chloromethyl-2-[2-(2-fluoro-4-trifluoromethyl-phenyl)-vinyl]-oxazole and 0.083 g (0.50 mmol) potassium iodide were added and stirring at 60° C. continued over night. After evaporation, 15 ml water was added and the mixture extracted with two portions of 15 ml ethyl acetate. The combined organic layers were washed with 1N sodium hydroxide and water, dried over sodium sulfate and evaporated to give 221 mg raw material which was purified on silica. Elution with ethyl acetate/methanol 5:1 yielded 101 mg (40%) 2-[(E)-2-(2-fluoro-4-trifluoromethyl-phenyl)-vinyl]-4-[4-(4-imidazol -1-ylmethyl-oxazol-2-yl)-phenoxymethyl]-oxazole as off-white crystals melting at 150-153° C.

reactant | 4-[4-(imidazol-1-ylmethyl)-oxazol-2-yl]-phenol | 0.50 mmol, 0.121 g | N1(C=NC=C1)CC=1N=C(OC1)C1=CC=C(C=C1)O | C13H11N3O2
reactant | cesium carbonate | 0.30 mmol, 0.10 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-chloromethyl-2-[2-(2-fluoro-4-trifluoromethyl-phenyl)-vinyl]-oxazole | 0.50 mmol, 0.153 g | ClCC=1N=C(OC1)C=CC1=C(C=C(C=C1)C(F)(F)F)F | C13H8ClF4NO
reactant | potassium iodide | 0.50 mmol, 0.083 g | [I-].[K+]
solvent | butanone | 10 ml | CC(CC)=O | C4H8O
product | 2-[(E)-2-(2-fluoro-4-trifluoromethyl-phenyl)-vinyl]-4-[4-(4-imidazol -1-ylmethyl-oxazol-2-yl)-phenoxymethyl]-oxazole | 101 mg, 40% | FC1=C(C=CC(=C1)C(F)(F)F)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)C=1OC=C(N1)CN1C=NC=C1 | C26H18F4N4O3
